Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
generalized body pain, chest heaviness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o morbid obesity s/p RYGB (Billroth II anatomy now), CVA, 
DVT/PE (xarelto), and chronic pain (methadone), with multiple 
similar admissions this past year (last discharge ___ 
presenting from home with generalized body pains as well as 
chest heaviness, and significant lower extremity edema. 

She was discharged from the ___ Service on 
___ for similar lower extremity edema thought to be related to 
severe protein-calorie malnutrition. Initially she had been 
treated with tube feeds, but her diet improved during the 
admission, she experienced bloating and symptoms to the tube
feeds, and her outpatient GI did not feel she needed tube feeds 
so they were discontinued. The patient was to have extensive 
outpatient follow up with both GI and nutrition. 

Her initial prior admission was to the ___ where she was 
treated empirically for diastolic HF. She received torsemide, 
but was unable to tolerate the medication ___ orthostasis. 
Midodrine was attempted, but she developed nausea with the 
medication. 

In the ED the patient denied cough, dysuria, diarrhea or 
abdominal pain.

In the ED,
- Initial vitals: T95.5, HR 98, BP 107/56, RR 18, 100% 2 L NC
- Exam notable for: Significant bilateral lower extremity edema
- Labs showed: UA: Leuk (large), WBC 33, Nitr (neg), Epi 1
CBC: WBC 4.2, Hb 7.1, platelets 244
Other: trop < 0.01, BMP normal, Alb 1.2, proBNP 456 
- Imaging showed:  
* CXR: No acute intrathoracic process. Specifically, no signs of 
pneumonia.  Right IJ central venous line terminates in the low 
SVC. No acute cardiopulmonary abnormality.

On arrival to the floor, pt reports she feels worse than she did 
on discharge last week. She said that she has increasing lower 
extremity edema that is rising into her abdomen making her feel 
overall heavy and bloated. 

For her chest heaviness ___ days) she denies difficulty in 
breathing, she denies cough, denies radiation of the pain to her 
arms/jaw. She denies diaphoresis with the pain. 

She says her abdominal pain is worse than previous with the 
heaviness feeling mostly in her entire lower abdomen, not 
concentrated over her bladder region. She denies fevers, chills, 
increased nausea/vomiting, frequency or burning with urination. 

She notes she has chronic headaches for which she takes 
gabapentin. Her nausea/vomiting from her GERD/gastroparesis is 
at baseline. Her stools have been regular. She notes chronic 
left sided weakness/changes in sensation.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- h/o HTN and DMII, resolved after gastric bypass per patient
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- s/p cholecystectomy and gastric bypass (___), with f/u 
complicated by multiple ex lap, gastrectomy, reversal surgery, 
failed J-tube c/b colonic perforation  
- multiple SBO during f/u from above  
- hernia repair  
- chronic abdominal pain, peptic ulcer disease   
- asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE    
- narcotic abuse, tobacco abuse   
- depression, anxiety   
- muscle weakness / myelopathy, chronic low back pain    
- vulvar folliculitis  
- arthorplasty - right total knee    
- hepatitis C - positive ab test, negative HCV viral load in 2x 
tests  
- nephrolithiasis  
- thyromegaly - TSH wnl, low free T4  
 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
-Vitals:  98.3 PO BP 97/68 HR 98 RR 18 100 Ra 
-General: Alert, oriented, no acute distress  
-HEENT: Sclerae anicteric, MMM, PERLA, equal eye movements. 
oropharynx clear  
-Neck: supple, JVP not elevated, no LAD  
-Lungs: CTAB, no wheezes, rales, or rhonchi  
-CV: RRR, S1/S2, no m/r/g 
-GI: surgical scars present, soft, mildly tender diffusely to 
palpation, worse in the lower abdomen, BS+, no rebound 
tenderness or guarding, no organomegaly  
-MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis. 
Significant pitting and non-pitting edema up to the waste.  
-Neuro: PERRLA and equal eye movements w/o nystagmus. uvula 
midline. Smile with droop on left side compared to right. Normal 
facial strength/neck strenghth.  RT side face with more 
pronounced sensation compared to left. Left lower extremities 
with decreased sensation. Left upper extremity with ___ 
strength,
left lower extremity including foot flexion decreased as 
compared
to right. Occasional word finding difficulties
-Skin:  No rash or lesion

DISCHARGE PHYSICAL EXAM
======================
Vitals: T 98.4 BP 100-139/67-83 HR 95-102 SaO2 100% RA 
-General: Alert, oriented, no acute distress  
-HEENT: Sclerae anicteric, MMM, EOMI.
-Neck: supple 
-Lungs: CTAB, no wheezes, rales, or rhonchi  
-CV: RRR, S1/S2, no m/r/g 
-GI: surgical scars present, soft, mild-mod tender diffusely to 
palpation, BS+, no rebound tenderness or guarding, no 
organomegaly  
-MSK: warm, well perfused. trace to 2+ pitting edema ___ and 
abdomen up through the thighs. ___ with skin wrinkling.   
-Neuro: alert, oriented, no obvious facial asymmetry, moving all 
extremities. previously documented: PERRLA and equal eye 
movements w/o nystagmus. uvula midline. Smile with droop on left 
side compared to right. Normal facial strength/neck strenghth. 
-Skin:  No rash or lesion
-Access: CVL in RIJ (placed in ED prior to admission due to 
difficult access)
 
Pertinent Results:
ADMISSION LABS
===============
___ 12:40AM BLOOD WBC-4.2 RBC-2.20* Hgb-7.1* Hct-23.5* 
MCV-107* MCH-32.3* MCHC-30.2* RDW-16.9* RDWSD-64.1* Plt ___
___ 12:40AM BLOOD Neuts-56.2 ___ Monos-7.4 Eos-0.0* 
Baso-0.2 Im ___ AbsNeut-2.35 AbsLymp-1.51 AbsMono-0.31 
AbsEos-0.00* AbsBaso-0.01
___ 12:40AM BLOOD Glucose-76 UreaN-13 Creat-0.6 Na-140 
K-4.0 Cl-103 HCO3-29 AnGap-8*
___ 12:40AM BLOOD CK-MB-2 proBNP-456*
___ 12:40AM BLOOD cTropnT-<0.01
___ 10:51AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:51AM BLOOD Calcium-7.0* Phos-3.5 Mg-1.7
___ 12:40AM BLOOD Albumin-1.2*
___ 01:19AM BLOOD ___ pO2-41* pCO2-49* pH-7.40 
calTCO2-31* Base XS-3
___ 12:45AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 12:45AM URINE RBC-<1 WBC-33* Bacteri-FEW* Yeast-NONE 
Epi-1

MICROBIOLOGY
============
-___ 12:45 am URINE: PSEUDOMONAS AERUGINOSA.    >100,000 
CFU/mL. 
SENSITIVITIES: MIC expressed in MCG/ML
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

-___ 12:40 am BLOOD CULTURE: Pending 
-___ 11:01 pm BLOOD CULTURE: Pending 

IMAGING
=======
CXR (___): No acute intrathoracic process.  Specifically, 
no signs of pneumonia.
 
DISCHARGE/INTERVAL LABS
=====================
___ 05:16AM BLOOD WBC-4.5 RBC-2.54* Hgb-8.3* Hct-26.3* 
MCV-104* MCH-32.7* MCHC-31.6* RDW-19.0* RDWSD-69.3* Plt ___
___ 05:16AM BLOOD ___
___ 05:16AM BLOOD Glucose-68* UreaN-13 Creat-0.7 Na-141 
K-3.9 Cl-106 HCO3-28 AnGap-7*
___ 10:51AM BLOOD CK(CPK)-33
___:16AM BLOOD Calcium-6.6* Phos-3.4 Mg-1.9
___ 05:54AM BLOOD WBC-4.3 RBC-2.72* Hgb-8.9* Hct-28.2* 
MCV-104* MCH-32.7* MCHC-31.6* RDW-19.2* RDWSD-69.8* Plt ___
___ 05:16AM BLOOD WBC-4.5 RBC-2.54* Hgb-8.3* Hct-26.3* 
MCV-104* MCH-32.7* MCHC-31.6* RDW-19.0* RDWSD-69.3* Plt ___
___ 05:16AM BLOOD ___
___ 05:54AM BLOOD Glucose-68* UreaN-12 Creat-0.6 Na-143 
K-4.1 Cl-108 HCO3-27 AnGap-8*
___ 05:54AM BLOOD Albumin-1.1* Calcium-7.0* Phos-3.5 Mg-1.___ y/o woman with morbid obesity s/p RYGB (Billroth II anatomy 
now), CVA, DVT/PE (xarelto), and chronic pain (on methadone) 
presenting with total body weakness and lower extremity edema 
found to have urinary tract infection.

=================
ACTIVE ISSUES
=================
# Severe protein-calorie malnutrition c/b peripheral edema: 
Patient with recent similar complaints discharged from ___ on 
___. LENIS at that time were negative for clot. Patient 
without evidence of diastolic HF on recent ECHO. Patient 
continues to have severe malnutrition which is likely the source 
of her lower extremity edema. Current albumin is quiet low at 
1.2 which is even further decreased from her last stay.  The 
patient had recent feeding tube initiation while on the 
Cardiology service, but feeds were not tolerated as she had 
abdominal pain, nausea, bloating. Prior hospitalist also reports 
speaking with her outpatient GI who did not feel tube feeds were 
necessary. The patient noted increased po intake towards the end 
of her last hospitalization and thus tube feeds were 
discontinued. GI recommended gastroparesis diet with small 
frequent meals and outpatient follow up after her last 
discharge. During this hospitalization, patient was encouraged 
to consume regular meals which she tolerated well. However, this 
will be an ongoing issue moving forwards that needs regular 
surveillance. Continued thiamine, ferrous sulfate, folic acid, 
cyancobalamin, ascorbic acid, multivitamin, vitamin D.  

# Anemia. Patient with anemia with Hb 7.1 on admission. Anemia 
of chronic disease on prior admissions. No bleeding per patient 
hx in urine, stool, or vaginal. Likely worsened because of 
severe malnutrition. Hb dropped to 6.9 during this admission and 
she received one unit of PRBC with response to Hb 8.3. On 
discharge, the Hb was 8.9.

# Pyuria, Urinary tract infection. Patient with positive urine 
analysis, but no urinary symptoms including dysuria, urinary 
frequency or urgency. Deferred antibiotics initially given 
absence of dysuria. However, the patient had intermittent 
episodes of confusion that could have been attributed to UTI. 
Culture grew pseudomonas, pan-sensitive. She was given 3 days of 
ciprofloxacin ___ after AM dose).

# Chronic Pain
# Substance Abuse
Patient has h/o chronic abdominal pain  secondary to multiple 
surgeries as well as h/o substance abuse per prior discharge 
summary. She is on a complex  pain regimen. Discuss limiting 
narcotics as they will exacerbate her gastroparesis and limit 
her po intake. Uptitrated gabapentin and uptitrated duloxetine 
___, which can both provide enhanced pain control without 
additional narcotics.

#Chest heaviness:
At her baseline. Unlikely ACS with two rounds of troponins 
negative. Patient without evidence of edema/opacity on her CXR 
to suggest heart failure or PNA. Likely related to overall 
sensation of generalized swelling. 

# DVT/PE: 
Patient previously on warfarin but switched to rivaroxaban, 
possibly at a prior rehab stay this year. Warfarin has difficult 
absorption in patients with gastric bypass and it is difficult 
to remain in a therapeutic range. Patient did have a stroke 
while on rivaroxaban which may be in the setting of her gastric 
bypass (it cannot be absorbed). Of note Apixiban does have 
adequate absorption in gastric bypass patients, and she has been 
transitioned to this medication. 

=================
CHRONIC ISSUES
=================
# Depression/Anxiety. Continued home bupropion, duloxetine, 
doxepin, queitiapine

# GERD/gastroparesis: Continued home ranitidine, promethazine, 
PPI, and sucralfate

TRANSITIONAL ISSUES
=================
#NEW MEDICATIONS
- Apixaban 5 mg PO/NG BID 
- Multivitamins W/minerals 1 TAB PO DAILY 
- Ciprofloxacin HCl 250 mg PO/NG Q12H Duration 3 days to 
complete ___ after AM dose

#CHANGED MEDICATIONS
- Gabapentin 300 mg PO/NG TID 

#STOPPED MEDICATIONS
- Multivitamins 1 TAB PO DAILY
- Rivaroxaban 20 mg PO DAILY 

[ ] Pseudomonas simple cystitis treatment to complete ___ 
after Am dose (for 3 day course)
[ ] Has severe protein calorie malnutrition. Continue to monitor 
po intake
[ ] Has anemia of chronic disease, continue to monitor
[ ] Previously on Xarelto, however given history of gastric 
bypass, switched to Apixaban due to concern for adequate 
absorption with Xarelto
[ ] Has chronic abdominal pain for which home 
duloxetine/gabapentin were uptitrated, rather than adding on 
additional narcotic agents
[ ] Anemia requiring transfusion. Likely chronic inflammation. 
Would recheck CBC in one week after discharge.

#CODE: full
#COMMUNICATION:  ___ ___ alternate would be
daughter ___ ___. Sister ___ 
-___
___ 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Ascorbic Acid ___ mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
6. Doxepin HCl 100 mg PO HS 
7. DULoxetine 40 mg oral DAILY 
8. Ferrous Sulfate 325 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Gabapentin 200 mg PO TID 
11. Methadone 20 mg PO TID 
12. Pantoprazole 40 mg PO Q12H 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Promethazine 6.25 mg PO BID:PRN nausea 
15. QUEtiapine Fumarate 75 mg PO QHS 
16. Ranitidine 150 mg PO DAILY 
17. Rivaroxaban 20 mg PO DAILY 
18. Senna 8.6 mg PO BID:PRN constipation 
19. Sucralfate 1 gm PO QID:PRN GI upset 
20. Thiamine 100 mg PO DAILY 
21. Vitamin D 1000 UNIT PO DAILY 
22. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
23. Multivitamins 1 TAB PO DAILY 
24. Lactulose 15 mL PO BID:PRN constipation 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Ciprofloxacin HCl 250 mg PO Q12H Duration: 4 Doses  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Gabapentin 300 mg PO TID  RX *gabapentin 300 mg 1 capsule(s) 
by mouth three times a day Disp #*90 Capsule Refills:*0 
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
6.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  BuPROPion (Sustained Release) 150 mg PO BID  
9.  Cyanocobalamin 100 mcg PO DAILY  
10.  Docusate Sodium 100 mg PO BID:PRN constipation  
11.  Doxepin HCl 100 mg PO HS  
12.  DULoxetine 40 mg oral DAILY  
13.  Ferrous Sulfate 325 mg PO DAILY  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Lactulose 15 mL PO BID:PRN constipation  
16.  Methadone 20 mg PO TID  RX *methadone 10 mg 2 Tablets by 
mouth three times a day Disp #*84 Tablet Refills:*0 
17.  Pantoprazole 40 mg PO Q12H  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
19.  Promethazine 6.25 mg PO BID:PRN nausea  
20.  QUEtiapine Fumarate 75 mg PO QHS  
21.  Ranitidine 150 mg PO DAILY  
22.  Senna 8.6 mg PO BID:PRN constipation  
23.  Sucralfate 1 gm PO QID:PRN GI upset  
24.  Thiamine 100 mg PO DAILY  
25.  Vitamin D 1000 UNIT PO DAILY 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
================
SEVERE PROTEIN CALORIE MALNUTRITION
ANEMIA OF CHRONIC DISEASE
CHRONIC ABDOMINAL PAIN

SECONDARY DIAGNOSES
===================
GASTROPARESIS
GERD
HX OF DVT/PE
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
You felt that you were unable to care for yourself at home 
You felt generalized weakness and swelling

WHAT HAPPENED IN THE HOSPITAL?
Encouraged regular po intake 
Increased home Gabapentin doses given chronic abdominal pain

WHAT SHOULD I DO WHEN I GO HOME?
Please take your medications as prescribed and follow up at your 
outpatient appointments. 

We wish you the best in your health.
-Your Care Team at ___

 
Followup Instructions:
___